US05571775
24. Preparation of N-(2-fluoro-5-methyl-3-pyridinyl)-5-methoxy-7-methyl[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide
To a solution of 0.70 g (1.9 mmol) of N-(2-fluoro-5-methyl-3-pyridinyl)-5-chloro-7-methyl[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide in 25 mL of dry dimethyl sulfoxide was added with stirring 1.0 mL (4.6 mmol) of sodium methoxide as a 25 percent solution in methanol. After 3 min, 3 mL of acetic acid was added and the solution was diluted with 600 mL of dichloromethane. The resulting solution was washed with water (5×100 mL), dried over magnesium sulfate, filtered, and concentrated by evaporation under reduced pressure to obtain 0.5 g (71 percent of theory) of the title compound as a white solid melting at 262°-264° C. with decomposition.

reactant | N-(2-fluoro-5-methyl-3-pyridinyl)-5-chloro-7-methyl[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide | 1.9 mmol, 0.70 g | FC1=NC=C(C=C1NS(=O)(=O)C1=NN2C(C=C(C=C2Cl)C)=N1)C | C13H11ClFN5O2S
reactant | sodium methoxide | 4.6 mmol, 1.0 mL | C[O-].[Na+]
reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | N-(2-fluoro-5-methyl-3-pyridinyl)-5-methoxy-7-methyl[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide | FC1=NC=C(C=C1NS(=O)(=O)C1=NN2C(C=C(C=C2OC)C)=N1)C | C14H14FN5O3S
